US04548932
To a solution of sodium (5.8 g) in ethanol (300 ml) are added diethyl malonate (40 g) and 3-(1-benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate (90.5 g). The resulting mixture is refluxed for 2 hours with stirring, cooled, diluted with water (1 l) and extracted with ethyl acetate (500 ml). The extract is dried over magnesium sulfate and evaporated in vacuo to give ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-ethoxycarbonylvalerate as an oil. To the stirred solution of this oil in ethanol (200 ml) is added dropwise a solution of sodium hydroxide (34 g) in water (200 ml). After the addition is complete, the mixture is diluted with water (300 ml) and extracted with a mixture of ether and petroleum ether (1:1, 300 ml). The aqueous layer is acidified with concentrated hydrochloric acid and extracted with ethyl acetate (500 ml). The extract is washed with water, dried over anhydrous magnesium sulfate and evaporated in vacuo to yield 5-(1-benzyloxycarbonyl-4-piperidyl)-2-carboxyvaleric acid as an oil. This oil is heated at 160°-170° C. for 45 minutes with stirring to give 5-(1-benzyloxycarbonyl-4-piperidyl)valeric acid (50 g) as an oil.

reactant | sodium | 5.8 g | [Na] | Na
reactant | diethyl malonate | 40 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-(1-benzyloxycarbonyl-4-piperidyl)propyl p-toluenesulfonate | 90.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C23H29NO5S
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
product | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-ethoxycarbonylvalerate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(C(=O)OCC)C(=O)OCC | C23H33NO6
